US09340546B2
1-(2-chloro-5-nitro-4-pyridyl)-4-methyl-piperazine (265.9 mg, 1.036 mmol) and methylamine 2M in THF (2.590 mL of 2 M, 5.180 mmol) were heated overnight in a sealed tube at 60° C. The mixture was purified by chromatography on silica (Companion 12 g) eluting with 0.5-15% MeOH:DCM, yielding N-methyl-4-(4-methylpiperazin-1-yl)-5-nitro-pyridin-2-amine (243 mg, 93%). MS (ES+) 252.1.

reactant | 1-(2-chloro-5-nitro-4-pyridyl)-4-methyl-piperazine | 1.036 mmol, 265.9 mg | ClC1=NC=C(C(=C1)N1CCN(CC1)C)[N+](=O)[O-] | C10H13ClN4O2
reactant | methylamine | 2M | CN | CH5N
reactant | THF | 5.180 mmol, 2 M, 2.590 mL | C1CCOC1 | C4H8O
product | N-methyl-4-(4-methylpiperazin-1-yl)-5-nitro-pyridin-2-amine | 243 mg, 93% | CNC1=NC=C(C(=C1)N1CCN(CC1)C)[N+](=O)[O-] | C11H17N5O2
